US07087601B2
To a solution of methyl 3-cyano-4-methoxy-benzoate (1.5 g, 7.9 mmol) in CH3OH/H2O (25 mL; 1:1), was added LiOH (2.5 g, 60.0 mmol). The reaction mixture was refluxed for 2 h, cooled at rt and 6M HCl was added dropwise until pH 2 was obtained. The precipitate was collected, washed with H2O (3×20 mL), dried in vacuo to afford 3-cyano-4-methoxy-benzoic acid. MS (ESI) 178 (M+H)+. To a 100 mL round-bottom flask with 3-cyano-4-methoxy-benzoic acid (1.4 g, 7.8 mmol), was added SOCl2 (15 mL) dropwise. The reaction was refluxed for 1 h and was cooled to rt. The excess of SOCl2 was removed in vacuo and the oily acid chloride was dissolved in THF (15 mL). The resulting solution was added dropwise to a mixture of 2-aminophenol (1.3 g, 11.7 mmol), triethylamine (1.3 g, 11.7 mmol) and THF (30 mL) at 0° C. The reaction was warmed up to rt and stirred an additional 3 h. The precipitate was removed by filtration and the filtrate was concentrated and dried in vacuo. The dark brown solid residue was dissolved in toluene (20 mL) and p-toluenesulfonic acid (6.0 g, 46.8 mmol) was added. The reaction was refluxed overnight, cooled to rt, and EtOAc (300 mL) was added. The EtOAc solution was washed with brine (3×20 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, CHCl3:CH3OH 8:1) to afford 5-(1,3-benzoxazol-2-yl)-2-methoxy benzonitrile. MS ESI) 251(M+H)+.

reactant | 3-cyano-4-methoxy-benzoic acid | 7.8 mmol, 1.4 g | C(#N)C=1C=C(C(=O)O)C=CC1OC | C9H7NO3
reactant | SOCl2 | 15 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-aminophenol | 11.7 mmol, 1.3 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 11.7 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid | 46.8 mmol, 6.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-(1,3-benzoxazol-2-yl)-2-methoxy benzonitrile | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C#N)C2)OC | C15H10N2O2
